US06730668B2
Preparation of 2-(4-fluorophenyl)-1-[4-methoxy-2-(2-methylsulfanyl-pyrimidine-4-carbonyl)pyrazolidine-1-yl]-ethanone (48):
2-(4-Fluorophenyl)-1-(4-methoxy-pyrazolidin-1-yl)-ethanone, 47, (7.67 g, 32.2 mmol) and 2-methylsulfonyl-pyrimidine-4-carbonyl chloride (9.11 g, 48.3 mmol) are dissolved in dichloromethane (150 mL). A 0.5 N aqueous solution of sodium hydroxide (150 mL) is added steadily via addition funnel and the mixture is stirred vigorously at room temperature for 4 hours. The reaction is diluted with 5% aqueous sodium carbonate solution (1 L). The mixture is extracted with dichloromethane (6×200 mL). The combined organic layers are dried over magnesium sulfate, filtered and concentrated to give a red oil. The crude material is purified by over silica (1:1 to 1:3 hexane/ethyl acetate to 100% ethyl acetate) to afford 10.3 g of the desired product as a brown, viscous oil.

reactant | 2-(4-Fluorophenyl)-1-(4-methoxy-pyrazolidin-1-yl)-ethanone | FC1=CC=C(C=C1)CC(=O)N1NCC(C1)OC | C12H15FN2O2
reactant | 2-methylsulfonyl-pyrimidine-4-carbonyl chloride | 48.3 mmol, 9.11 g | CS(=O)(=O)C1=NC=CC(=N1)C(=O)Cl | C6H5ClN2O3S
reactant | sodium hydroxide | 150 mL | [OH-].[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | sodium carbonate | 1 L | C([O-])([O-])=O.[Na+].[Na+]
product | 2-(4-fluorophenyl)-1-[4-methoxy-2-(2-methylsulfanyl-pyrimidine-4-carbonyl)pyrazolidine-1-yl]-ethanone | 10.3 g | FC1=CC=C(C=C1)CC(=O)N1N(CC(C1)OC)C(=O)C1=NC(=NC=C1)SC | C18H19FN4O3S
